US05506235
To a suspension of 9-chloro-1H-pyrazolo[3,4-f]quinoline (1.10 g, 5.4 mmol) in absolute ethanol (50 ml) was added m-anisidine (0.79 ml, 7.1 mmol) and the reaction mixture heated at reflux for 48 hours. The solvent was removed by rotary evaporation and the residue was dissolved in boiling methanol, treated with decolorizing carbon and filtered to give a light yellow solution. The solvent was removed by rotary evaporation and the residue was recrystallized from methanol/ether to give 9-(m-anisidino)-1H-pyrazolo[3,4-f]quinoline hydrochloride (1.04 g, 59%) as off-white crystals.

reactant | 9-chloro-1H-pyrazolo[3,4-f]quinoline | 5.4 mmol, 1.10 g | ClC1=CC=NC2=CC=C3C(=C12)NN=C3 | C10H6ClN3
reactant | m-anisidine | 7.1 mmol, 0.79 ml | COC1=CC(=CC=C1)N | C7H9NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 9-(m-anisidino)-1H-pyrazolo[3,4-f]quinoline hydrochloride | 1.04 g, 59% | Cl.COC1=CC(=CC=C1)NC1=CC=NC2=CC=C3C(=C12)NN=C3 | InChI=1S/C17H14N4O.ClH/c1-22-13-4-2-3-12(9-13)20-15-7-8-18-14-6-5-11-10-19-21-17(11)16(14)15;/h2-10H,1H3,(H,18,20)(H,19,21);1H
